Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Zomig / Cephalosporins
 
Attending: ___.
 
Chief Complaint:
Flank pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms ___ is a ___ female with a history of MS presenting with 
acute onset, severe left flank pain.  ___ morning at 1am she 
awoke with the worst pain she has ever had in her left flank 
radiating down to her groin.  It was a sharp pain that was 
worsened by lying on her left side.  She managed to drive 
herself to the emergency room.  Of note, she was recently in 
___ and flew back ___.  Has not had recent leg 
swelling or shortness of breath.  She has not had dysuria, 
fevers or preceding flank pain.  She did have UTIs as a young 
child and remembers giving urine samples, but does not remember 
being told she had any congenital abnormalities.  She has had 
recent non-bloody diarrhea that occurs ___ hours after eating, 
up to 3 times per day, w/o associated pain.  She denies any past 
history of clots or abnormal bleeding.  Has had past episodes 
where her heart beats quickly when standing up accompanied by a 
pre-syncopal sensation, has to lean on something to recover, but 
has never been told she has an abnormal heart rhythm.  Her 
menses are regular and she expects her next period next week.
.
In the ED, initial vitals were T 96.4, HR 80, BP 136/85, RR 14, 
O2 98% on RA.  She had a CT urogram that was notable for a 
wedge-shaped defect in the upper pole of the left kidney.  Pain 
treated w/ Ultram followed by IV morphine, and she was started 
on IV heparin. No antibiotics were given.  Up on the floor, she 
reports that her pain is well controlled.
 
Past Medical History:
MULTIPLE SCLEROSIS - presenting w/ R arm tremor, facial numbness 
and localized paresthesias 
MIGRAINE HEADACHES  
RECTAL BLEEDING  
ENDOMETRIOSIS s/p Surgery in past w/ lysis of adhesions. 
ASTHMA 
GASTROESOPHAGEAL REFLUX  
s/p appendectomy
Food allergies/anaphylaxis 
 
Social History:
___
Family History:
She is of ___, and ___ descent. On father's 
side, one grandfather was on blood thinners and died 
unexpectedly at ___ from likely MI, grandmother on blood thinners 
and had an IVC stent.
 
Physical Exam:
VS: T 96.6  BP 131/86  HR 75  RR 18  O2sat 96%RA 
GEN: Sitting up comfortably in bed, mild pain several hours 
after morphine.
HEENT: EOMI, sclerae anicteric, MMM, oropharynx clear.
CV: RRR, no murmurs, JVP flat when upright.
PULM: CTAB, mild left-sided costophrenic angle tenderness.
ABD: +BS, soft, NTND, no organomegaly
LIMBS: No edmema, no calf tenderness, 2+ radial and DP pulses.
SKIN: No rashes
NEURO: Normal gait, non-focal
 
Pertinent Results:
Admission labs:
___ 02:45AM   GLUCOSE-105* UREA N-9 CREAT-0.9 SODIUM-137 
POTASSIUM-5.1 CHLORIDE-106 TOTAL CO2-19* ANION GAP-17
___ 02:45AM   CALCIUM-9.1 PHOSPHATE-3.5 MAGNESIUM-2.0
___ 02:45AM   WBC-12.2* RBC-4.96 HGB-13.9 HCT-41.6 MCV-84 
MCH-28.1 MCHC-33.5 RDW-13.3
___ 02:45AM   NEUTS-68.3 ___ MONOS-3.8 EOS-6.0* 
BASOS-0.3
___ 02:45AM   PLT COUNT-293
___ 02:54AM   GLUCOSE-112* LACTATE-1.2 NA+-140 K+-4.5 
CL--106 TCO2-21
___ 12:46PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 12:46PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 12:46PM URINE  RBC-1 WBC-0 BACTERIA-NONE YEAST-NONE 
EPI-<1

ECG: Sinus rhythm. Normal tracing. Compared to the previous 
tracing of ___
T waves appear more normal on the current tracing.

CTU final read: IMPRESSION: Decreased perfusion of the upper 
pole of the left kidney, mild dilation of the left proximal 
urter and thickening of and stranding abou the left proximal 
ureter. Findings are most suggestive of infection; however, 
differntial considerations also include infarct or infectious 
process.
Repeat CTU after treatment is recommended for further 
evaluation. If the
ureteral abnormality persists, a retrograde ureteral study 
should be
considered to exclude malignancy.
 
Brief Hospital Course:
___ female with a history of MS presenting with acute onset, 
severe left flank pain.  CT scan with wedge-shaped defect 
consistent with infection or infarction.
.
# Left flank pain: Radiology read had differential of infarct vs 
infection, more likely infection.  However, her acute onset of 
pain without preceding fevers, dysuria or other symptoms was 
more concerning for acute ischemia, likely from a clot.  She had 
no obvious source for a clot, with a negative Echo bubble study 
and no signs of afib on history or telemetry.  She had recently 
flown from ___, but with a stop in ___, likely not long 
enough for a venous clot.  Her pain was managed with standing 
Tylenol and PO morphine while inpatient, and she was discharged 
with Tylenol and oxycodone.  Her laboratory results were 
consistently normal and she did not have any signs of compromise 
of her renal function, despite the seemingly large size of the 
infarct on CT scan.
Revised read by radiology showed signs of a possible stone at 
the UV junction which could explain the distal hydronephrosis 
and perinephric stranding.  They did not feel that an MRI would 
be more helpful than the CT scan.  Radiology and urology 
recommended treatment and repeat imaging in 2 weeks. She 
received 4 days of ciprofloxacin and is being empirically 
treated with BID lovenox with a plan of repeat CT urogram with 
and without contrast in 2 weeks prior to an appointment with her 
PCP, ___, to decide on management.  Given that her 
history and CT scan were consistent with an arterial clot, she 
will also follow-up in ___ clinic to consider 
whether long-term anticoagulation would be necessary to prevent 
recurrent clots.  If her repeat CT scan is abnormal, she should 
also see a urologist.  She was discharged on lovenox as the 
anticipated course of anticoagulation will be relatively short, 
and she is of child-bearing age.
 
Medications on Admission:
Cetirizine 10 mg daily  
ProAir HFA 90 mcg q4-6 hours as needed - ~2x/month
Omeprazole 20 mg once a day 
EpiPen 0.3 mg/0.3 mL (1:1,000) - severe ginger/coconut allergy
Ibuprofen 200 mg once a day as needed for joint pains
Flovent HFA 44 mcg twice a day 
 
Discharge Medications:
1. Cetirizine 10 mg Tablet Sig: One (1) Tablet PO daily ().  
2. ProAir HFA 90 mcg/Actuation HFA Aerosol Inhaler Sig: One (1) 
puff Inhalation every ___ hours as needed for shortness of 
breath or wheezing.  
3. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. EpiPen 0.3 mg/0.3 mL Pen Injector Sig: One (1) injection 
Intramuscular Once PRN as needed for severe allergy symptoms.  
5. Fluticasone 44 mcg/Actuation Aerosol Sig: One (1) puff 
Inhalation twice a day.  
6. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO every ___ hours 
as needed for pain for 10 doses.
Disp:*10 Tablet(s)* Refills:*0*
7. Enoxaparin 100 mg/mL Syringe Sig: One (1) syringe 
Subcutaneous BID (2 times a day).
Disp:*30 syringe* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: renal perfusion defect NOS

Secondary diagnoses: multiple sclerosis
 
Discharge Condition:
Mental Status: Clear and coherent
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - Independent
 
Discharge Instructions:
___ were admitted with acute pain in your left flank.  A CT scan 
showed a defect in the blood flow to your left kidney, thought 
to be either an infection or a clot.  ___ were treated with four 
days of ciprofloxacin in case there was an infection.  ___ were 
on heparin and then lovenox in case there was a clot.  Blood 
tests were sent to check if your blood clots more easily than 
normal, and ___ can follow-up the results with your primary care 
doctor.  For now ___ are safe to go home.
.
___ were started on Lovenox, 90mg sub-cutaneous injections twice 
a day, to take at least until ___ see Dr. ___ can take oxycodone as need for severe pain
___ can take Tylenol or Motrin as needed for pain.  ___ can buy 
these over the counter.
.
Your other medications were not changed.
 
Followup Instructions:
___